US06831193B2
4-[(methylamino)carbonyl]-6-({(3-phenoxybenzyl)[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amino}carbonyl)isophthalic Acid
1,2,4,5-Benzenetetracarboxylic dianhydride (1.1 g, 5 mmol) in THF (25 mL) was treated with diisopropylethyl amine (1.6 mL, 9.2 mmol) dropwise at −78° C. and then treated with N-(3-phenoxybenzyl)-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine (9 mL, 4.5 mmol, 0.5M solution in ClCH2CH2Cl) dropwise. After allowing the reaction mixture to gradually warm to room temperature overnight, the mixture was recooled to −78° C. and treated with methylamine (2.5 mL, 5 mmol, 2M in MeOH) dropwise. The reaction mixture was again allowed to slowly warm to room temperature. The organics were removed under reduced pressure and the residue was dissolved in ethyl acetate (25 mL). The ethyl acetate solution was washed with 1N HCl (2×5 mL), brine (5 mL), dried over Na2SO4, filtered and the filtrate concentrated under reduced pressure. The residue was purified by flash chromatographed (silica gel, 5:95 MeOH:CH2Cl2 to 1:9 MeOH:CH2Cl2) to provide a solid. The solid was further purified by RP-HPLC to provide the title compound as an off-white solid (319 mg, 12%).

reactant | 1,2,4,5-Benzenetetracarboxylic dianhydride | 5 mmol, 1.1 g | C1=C2C(=CC3=C1C(=O)OC3=O)C(=O)OC2=O | C10H2O6
reactant | diisopropylethyl amine | 9.2 mmol, 1.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(3-phenoxybenzyl)-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine | 4.5 mmol, 0.5M, 9 mL | O(C1=CC=CC=C1)C=1C=C(CN[C@H]2CCCC3=CC=CC=C23)C=CC1 | C23H23NO
reactant | methylamine | 5 mmol, 2M, 2.5 mL | CN | CH5N
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 4-[(methylamino)carbonyl]-6-({(3-phenoxybenzyl)[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amino}carbonyl)isophthalic Acid | 319 mg, 12% | CNC(=O)C1=C(C=C(C(=O)O)C(=C1)C(=O)N([C@H]1CCCC2=CC=CC=C12)CC1=CC(=CC=C1)OC1=CC=CC=C1)C(=O)O | C34H30N2O7
